US06734180B1
5-(2-furyl)-4-hydroxythieno[2,3-d]pyrimidine (180 mg, 0.80 mmol) in phosphorus oxychloride (2.0 ml) was heated to reflux for 2 hours. 5-(2-furyl)-4-chlorothieno[2,3-d]pyrimidine obtained by distilling off the solvent under reduced pressure, without further purification, together with 2-aminoindan (130 mg, 0.98 mmol) and triethylamine (0.90 ml, 6.4 mmol) in dry ethanol (5 ml) was heated to reflux under an argon atmosphere for 2 hours. The residue obtained by distilling off the solvent was purified by silica gel chromatography (hexane:ethyl acetate=2:1) to obtain the title compound (130 mg, 0.39 mmol) having the following physical properties:

reactant | 5-(2-furyl)-4-hydroxythieno[2,3-d]pyrimidine | 0.80 mmol, 180 mg | O1C(=CC=C1)C1=CSC=2N=CN=C(C21)O | C10H6N2O2S
reactant | phosphorus oxychloride | 2.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-(2-furyl)-4-chlorothieno[2,3-d]pyrimidine | O1C(=CC=C1)C1=CSC=2N=CN=C(C21)Cl | C10H5ClN2OS
